US08748624B2
STEP B: ethyl 3-(5-(2-(((4-iodophenyl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (2.2 g, 10.1 mmol) was added to a DCE solution (22 mL) of ethyl 3-(5-(2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate (2.0 g, 5.1 mmol), 4-iodoaniline (1.2 g, 5.6 mmol), and AcOH (1.2 mL, 20.3 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 10.1 mmol, 2.2 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 5.1 mmol, 2.0 g | C(=O)C1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C19H17F3N2O4
reactant | 4-iodoaniline | 5.6 mmol, 1.2 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | AcOH | 20.3 mmol, 1.2 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 22 mL | ClCCCl | C2H4Cl2
product | ethyl 3-(5-(2-(((4-iodophenyl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | IC1=CC=C(C=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C25H23F3IN3O3
